US04843062
Step 3. Preparation of N-benzoyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycin
A solution of N-benzoyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-dimethylethyl ester (6.03 g, 12.4 mmole) in trifluoroacetic acid (40 mL) was stirred at room temperature for 10 minutes, then diluted with water (600 mL) and extracted with ether (2×300 mL). The extracts were combined, washed with saturated aqueous sodium chloride (1×100 mL), dried with magnesium sulfate, and the ether was removed. The resultant oil was suspended in water (300 mL) and the aqueous phase was slowly neutralized to pH 5 with 10% aqueous sodium hydroxide solution. The precipitate was collected by suction filtration, washed with water (2×25 mL), dried and flash chromatographed (9:1 chloroform:acetonitrile, 5% phosphoric acid in methanol treated silica). The solid was then recrystallized in 2:1 benzen:hexane to provide the product as white crystals (1.83 g, 33%), m.p. 143°-145° C. (dec.).

reactant | N-benzoyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-dimethylethyl ester | 12.4 mmole, 6.03 g | C(C1=CC=CC=C1)(=O)N(CC(=O)OC(C)(C)C)C(=O)C1=CC=CC2=C(C(=CC=C12)OC)C(F)(F)F | C26H24F3NO5
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 600 mL | O | H2O
product | N-benzoyl-N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycin | 1.83 g, 33% | C(C1=CC=CC=C1)(=O)N(CC(=O)O)C(=O)C1=CC=CC2=C(C(=CC=C12)OC)C(F)(F)F | C22H16F3NO5
